US07671047B2
4-{1-(4-Fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-2-yl}-N-hydroxybenzamidine (3)
199 mg of hydroxylammonium hydrochloride were added to a solution of 200 mg of {1-(4-fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-2-yl}benzonitrile and 0.45 ml of triethylamine in 15 ml of isopropanol, and the mixture was stirred at room temperature for 12 h. The reaction solution was extracted twice with ethyl acetate/water. The organic phases were dried over magnesium sulfate and concentrated. This gave the product of molecular weight 451.48 (C25H23F2N3O3); MS (ESI): 452.10 (M+H+).

reactant | hydroxylammonium hydrochloride | 199 mg | Cl.O[NH3+]
reactant | {1-(4-fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-2-yl}benzonitrile | 200 mg | FC1=CC=C(C=C1)N1C(C(C1=O)CCC(O)C1=CC=C(C=C1)F)C1=C(C#N)C=CC=C1 | C25H20F2N2O2
reactant | triethylamine | 0.45 ml | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 15 ml | C(C)(C)O | C3H8O
product | 4-{1-(4-Fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-2-yl}-N-hydroxybenzamidine | FC1=CC=C(C=C1)N1C(C(C1=O)CCC(O)C1=CC=C(C=C1)F)C1=CC=C(C(=N)NO)C=C1 | C25H23F2N3O3
